US07078403B1
A mixture of 5-amino-1-pentanol (433 mg, 4.2 mmol), dichloropyridazine (1.25 g, 8.39 mmol) and sodium carbonate (890 mg, 8.39 mmol) was stirred in 1,4-dioxane (40 ml) and heated at 70-80° for 3 days under an atmosphere of argon. The solvent was removed under reduced pressure and the residue was partitioned between dichloromethane (300 ml) and water (38 ml). The organic layer was separated, dried and concentrated to give an orange solid which was chromatographed on silica, using hexane/ethyl acetate (1:1). The product, 5-(6chloro-3-pyridazinyl)amino-1-pentanol was isolated as a pale yellow solid (202 mg, 22%).

reactant | 5-amino-1-pentanol | 4.2 mmol, 433 mg | NCCCCCO | C5H13NO
reactant | dichloropyridazine | 8.39 mmol, 1.25 g | ClC1=C(N=NC=C1)Cl | C4H2Cl2N2
reactant | sodium carbonate | 8.39 mmol, 890 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 5-(6chloro-3-pyridazinyl)amino-1-pentanol | ClC1=CC=C(N=N1)NCCCCCO | C9H14ClN3O
